US08242145B2
Step 4: 2-[3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid
2-(3-Hydroxy-phenyl)-propionic acid (0.1 g, 0.60 mmol), 2-fluoro-5-(trifluoromethyl)benzaldehyde (0.115 g, 0.60 mmol), and potassium carbonate (0.165 g, 1.19 mmol) were combined in THF and stirred at 70° C. overnight. The mixture was partitioned between H2O and EtOAc and acidified with 1N aqueous HCl to pH 1, and then extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and residue was purified by silica gel chromatography to give the desired product.

reactant | 2-(3-Hydroxy-phenyl)-propionic acid | 0.60 mmol, 0.1 g | OC=1C=C(C=CC1)C(C(=O)O)C | C9H10O3
reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 0.60 mmol, 0.115 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | potassium carbonate | 1.19 mmol, 0.165 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-[3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid | C(=O)C1=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=CC(=C1)C(F)(F)F | C17H13F3O4
